US09340555B2
To a stirred suspension of tert-butyl {2-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]ethyl}carbamate (488 mg, 0.82 mmol) in 10 ml of dichloromethane was added 5 ml of trifluoroacetic acid. The mixture was stirred at room temperature for one hour and evaporated to dryness under reduced pressure. The residue was re-dissolved in MeOH (5 ml) and poured into 100 ml of water with vigorous stirring. Saturated NaHCO3 solution was added until pH=8˜9. The precipitates were filtered, washed with water and dried in vacuo to give N-(2-aminoethyl)-7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxamide as brown solid. Yield: 400 mg, 99%.

reactant | tert-butyl {2-[({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]ethyl}carbamate | 0.82 mmol, 488 mg | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)NCCNC(OC(C)(C)C)=O)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C29H29F2N5O5S
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(2-aminoethyl)-7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxamide | NCCNC(=O)C1=CC2=NC=CC(=C2S1)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F)F | C24H21F2N5O3S
